US08633173B2
204 a) An oven dried tube was charged with 1-iodo-3-nitro-benzene (2.60 g, 10.4 mmol), 4-methyl-piperazin-2-one (1.00 g, 8.76 mmol), copper(I) iodide (85.0 mg, 0.446 mmol), (1R,2R)-N,N′-dimethyl-cyclohexane-1,2-diamine (0.14 mL, 0.89 mmol), potassium phosphate (3.75 g, 17.7 mmol) and 1,4-dioxane (10 mL). The tube was carefully evacuated and backflushed with nitrogen three times then sealed. The mixture was heated at 90° C. for 24 hours then cooled to room temperature and diluted with dichloromethane (20 mL). The mixture was filtered through a plug of diatomaceous earth and the filtrate was evaporated. The residue was purified via chromatography using an ISCO automated purification apparatus (silica gel column 40 g and 0%→4% methanol:dichloromethane). 4-Methyl-1-(3-nitro-phenyl)-piperazin-2-one was isolated as a red-brown waxy solid (1.13 g, 55%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.20 (s, 1H), 8.13 (d, J=7.5 Hz, 1H), 7.73 (d, J=8.0 Hz, 1H), 7.57 (t, J=8.2 Hz, 1H), 3.79 (t, J=5.1 Hz, 2H), 3.31 (s, 2H), 2.83 (t, J=5.2 Hz, 2H), 2.42 (s, 3H). MS=236 (MH)+.

reactant | 1-iodo-3-nitro-benzene | 10.4 mmol, 2.60 g | IC1=CC(=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | 4-methyl-piperazin-2-one | 8.76 mmol, 1.00 g | CN1CC(NCC1)=O | C5H10N2O
reactant | (1R,2R)-N,N′-dimethyl-cyclohexane-1,2-diamine | 0.89 mmol, 0.14 mL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 17.7 mmol, 3.75 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper(I) iodide | 0.446 mmol, 85.0 mg | [Cu]I
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-Methyl-1-(3-nitro-phenyl)-piperazin-2-one | CN1CC(N(CC1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C11H13N3O3
